US09056873B2
Step C: cis-tert-Butyl 2-aminocyclohexylcarbamate
To the mixture of cis-tert-butyl 2-(2,2,2-trifluoroacetamido)cyclohexylcarbamate in EtOH from Step B, was added a solution of NaOH (500.0 g of a 50 wt % solution in water, 1.42 eq) in water (1.0 L) portion wise over a period of 15 minutes, while maintaining a reaction temperature <15° C. Once the addition was complete, the reaction temperature was allowed to rise to room temperature, and the reaction mixture was stirred at RT overnight (16 hours). The batch (6 L) was distilled under reduced pressure (˜200 mBar) to a volume of ˜3.4 L. Water (2.0 L) was added and the distillation was continued (at ˜200 mBar) until the volume of the mixture was about 4.0 L and the solution had turned milky in appearance. The batch was cooled to 25° C., diluted with IPAc (3.5 L) and stirred for 10 minutes. Following phase separation, the aqueous phase was extracted with IPAc (1.5 L) and the phases separated. The combined organic extracts were washed with water (1.5 L) and then with an aqueous solution of NaCl (5 wt %, 1.5 L). The organic phase (5.8 L) was distilled under reduced pressure (˜200 mBar) until the volume of the mixture was ˜2.0 L. This afforded the title compound as a crude racemic product in IPAc, which was carried forward into the next step. Proton NMR analysis showed the presence of EtOH (2.3 mole %) and KF analysis indicated the presence of water (0.58%).

reactant | cis-tert-butyl 2-(2,2,2-trifluoroacetamido)cyclohexylcarbamate | FC(C(=O)N[C@@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O)(F)F | C13H21F3N2O3
reactant | NaOH | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
solvent | water | O | H2O
solvent | water | 1.0 L | O | H2O
product | cis-tert-Butyl 2-aminocyclohexylcarbamate | N[C@@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O | C11H22N2O2
